US07235574B2
vi) 4-[4-(1-Trityl-1H-[1,2,3]triazol-4-yl)-butyl]-phenol
A solution of 706 mg (5.06 mmol) triphenylchloromethane in 5.0 ml DMF was added at 0° C. to a solution of 500 mg (2.30 mmol) 4-(4-1H-[1,2,3]triazol-4-yl-butyl)-phenol and 512 mg (5.06 mmol) triethylamine in 5.0 ml DMF. The mixture was allowed to reach r.t. overnight and solvents were removed in vacuo. After distribution of the residue between water and ethyl acetate, the organic phase was dried (sodium sulphate), solvents distilled off and the residue purified by column chromatography on silica gel (heptane/ethyl acetate 2:1).

reactant | triphenylchloromethane | 5.06 mmol, 706 mg | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | 4-(4-1H-[1,2,3]triazol-4-yl-butyl)-phenol | 2.30 mmol, 500 mg | N1N=NC(=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | triethylamine | 5.06 mmol, 512 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 4-[4-(1-Trityl-1H-[1,2,3]triazol-4-yl)-butyl]-phenol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NC(=C1)CCCCC1=CC=C(C=C1)O | C31H29N3O
